US09056874B2
2-((5-(Hydroxymethyl)-7-methyl-1-tosyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
To a solution of 2-((7-methyl-1-tosyl-5-(((2-(trimethylsilyl)ethoxy)methoxy)methyl)-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile (133 mg, 0.221 mmol) in CH2Cl2 (10 mL) was added BF3-OEt2 (0.084 mL, 0.664 mmol) at 0° C. The whole mixture was stirred at 0° C. for 1.5 h, and then at room temperature for 2.5 h. The reaction was quenched by 5% aq. NaHCO3 and stirred for 0.5 h. The layers were separated and the aqueous layer was extracted with CH2Cl2. The organic layers were combined and washed with H2O and brine, dried over Na2SO4, and filtered. Concentration of the filtrate gave the title compound, without need of further purification. MS (ESI+) m/z 471.1 (M+H).

reactant | 2-((7-methyl-1-tosyl-5-(((2-(trimethylsilyl)ethoxy)methoxy)methyl)-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.221 mmol, 133 mg | CC=1C=C(C(=C2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)CC1=NC2=C(N1)C=CC(=C2)C#N)COCOCC[Si](C)(C)C | C32H36N4O4SSi
reactant | BF3 OEt2 | 0.664 mmol, 0.084 mL | B(F)(F)F.O(CC)CC
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-((5-(Hydroxymethyl)-7-methyl-1-tosyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | OCC=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)CC1=NC2=C(N1)C=CC(=C2)C#N | C26H22N4O3S
